US07153855B2
To a solution of 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentylpyrimidin-2-amine (100 mg, 0.24 mmol) in 1-methyl-2-pyrrolidinone (3 mL) was added sodium azide (200 mg, 3.1 mmol). The resulting suspension was heated at 80° C. until the reaction was judged complete by thin layer chromatography. The mixture was cooled to room temperature and water and ether were added. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over sodium sulfate. Filtration and concentration followed by flash chromatography (2:1 to 1:1 hexanes-ethyl acetate) provided 3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-amine (50 mg, 52%) as a yellow powder. 1H NMR (CDCl3): δ 8.03 (d, 1 H), 7.87 (d, 1 H), 7.62 (d, 2 H), 7.27 (m, 1 H), 7.01 (d, 2 H), 6.37 (d, 1 H), 6.17 (d, 1 H), 5.39 (s, 2 H), 5.19 (d, 1 H), 4.39 (m, 1 H), 3.90 (s, 3 H), 2.10 (m, 2 H), 1.82–1.54 (m, 6 H); MS m/z 401(M+1).

reactant | 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentylpyrimidin-2-amine | 0.24 mmol, 100 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C23H22ClN5O
reactant | sodium azide | 3.1 mmol, 200 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-amine | 50 mg, 52% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2N)C2=CC=C(C=C2)OC | C23H24N6O
